US06127386
178a. 5-Allyl-3-(1-BOC-2-(S)-azetidinylmethoxy)-6-chloropyridine
3-(1-BOC-2-(S)-Azetidinylmethoxy)-5-bromo-6-chloropyridine (1.0 g, 2.65 mmol) in toluene (10 mL) was added tetrakis(triphenylphosphine) palladium (100 mg) and allyltributyltin (0.99 mL, 3.18 mmol). The mixture was stirred and refluxed for two days. Solvent was evaporated and the residue was chromatographed (silica gel; hexane/EtOAc, 5:1 to 1:1) to afford an oil (750 mg, 83%): 1H NMR (CDCl3, 300 MHz) δ 1.42 (s, 9H), 2.20-2.40 (m, 2H), 3.43 (d, 2H, J=6.5 Hz), 3.88 (t, 2H, J=7.0 Hz), 4.12 (m, 1H), 4.30 (m, 1H), 4.50 (m, 1H), 5.10-5.20 (m, 2H), 5.92 (m, 1H), 7.18 (d, J=3.0 Hz), 7.98 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 339 (M+H)+.

reactant | 3-(1-BOC-2-(S)-Azetidinylmethoxy)-5-bromo-6-chloropyridine | 2.65 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC(=C(C1)Br)Cl | C14H18BrClN2O3
reactant | allyltributyltin | 3.18 mmol, 0.99 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 100 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-Allyl-3-(1-BOC-2-(S)-azetidinylmethoxy)-6-chloropyridine | 750 mg, 83% | C(C=C)C=1C=C(C=NC1Cl)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C17H23ClN2O3
